US06150373
A solution of 3.5 g (11 mmol) of N-[2-(4-bromo-3-nitrophenyl)-1,1-dimethyl-ethyl]acetamide in 60 ml of ethanol was treated with 3 ml (22 mmol) of triethylamine and 500 mg of 10% palladium on charcoal. The mixture was hydrogenated at atmospheric pressure for 6 hours, filtered and evaporated. The residue was partitioned between 60 ml of ethyl acetate and 60 ml of saturated aqueous sodium bicarbonate. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 1.7 g (75%) of N-[2-(3-aminophenyl)-1,1-dimethyl-ethyl]-acetamide as an orange gum. [Mass spectrum (ESI) MH+ =207].

reactant | N-[2-(4-bromo-3-nitrophenyl)-1,1-dimethyl-ethyl]acetamide | 11 mmol, 3.5 g | BrC1=C(C=C(C=C1)CC(C)(C)NC(C)=O)[N+](=O)[O-] | C12H15BrN2O3
reactant | triethylamine | 22 mmol, 3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | N-[2-(3-aminophenyl)-1,1-dimethyl-ethyl]-acetamide | 1.7 g, 75% | NC=1C=C(C=CC1)CC(C)(C)NC(C)=O | C12H18N2O
